US07223791B2
A mixture of methyl 4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoate (2.10 g), 1 M aqueous sodium hydroxide solution (12 ml), tetrahydrofuran (20 ml) and methanol (20 ml) was stirred at 60° C. for 1 hr. The mixture was acidified by adding 1 M hydrochloric acid. The crystals were collected by filtration to give 4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid (1.82 g, yield 90%). Recrystallization from hexane-tetrahydrofuran gave colorless crystals. melting point: 293–294° C.

reactant | methyl 4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoate | 2.10 g | FC(C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C(=O)OC)C=C1)(F)F | C17H11F3N2O3
reactant | sodium hydroxide | 1 M, 12 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 4-[3-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid | 1.82 g, yield 90% | FC(C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C(=O)O)C=C1)(F)F | C16H9F3N2O3
